US07605171B2
Step A: tert-Butyl 3-(3-methyl-4-cyanophenyl)acrylate
A solution of 10.0 g (51.0 mmol) of 4-bromo-2-methylbenzonitrile in 80 mL of 1,4-dioxane was treated with 7.19 g (56.1 mmol) of tert-butyl acrylate, 10.96 g (56.1 mol) of N-methyldicyclohexylamine, 228 mg (0.76 mol) of 2-(di-tert-butylphosphino) biphenyl, and 396 mg (0.38 mol) of tris(dibenzylideneacetone)dipalladium(0)-chloroforin adduct. The resulting mixture was heated at 70° C. for 16 h and cooled to rt. The reaction mixture was filtered though a filter paper, and the filtrate was concentrated. The crude product was partitioned into four portions. Chromatography on four Biotage 40M cartridges using 19:1 v/v hexanes/EtOAc as the eluant followed by pooling of product fractions afforded 10.0 g of the title compound: 1H NMR (500 MHz, CDCl3) δ 1.55 (s, 9H), 2.58 (s, 3H), 6.44 (d, J=16.0, 1H), 7.41 (d, J=8.0, 1H), 7.45 (s, 1H), 7.53 (d, J=16.0, 1H), 7.61 (d, J=8.0, 1H).

reactant | 4-bromo-2-methylbenzonitrile | 51.0 mmol, 10.0 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | tert-butyl acrylate | 56.1 mmol, 7.19 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | N-methyldicyclohexylamine | 56.1 mol, 10.96 g | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | 2-(di-tert-butylphosphino) biphenyl | 0.76 mol, 228 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 3-(3-methyl-4-cyanophenyl)acrylate | 10.0 g | CC=1C=C(C=CC1C#N)C=CC(=O)OC(C)(C)C | C15H17NO2
